US09212182B2
A RBF was charged with 4-(benzylthio)-2-nitroaniline (1.80 g, 6.91 mmol), 4′-chloro-2-fluoro-4-iodo-5-methoxy-3′-methyl-1,1′-biphenyl (2.86 g, 7.61 mmol), xantphos (0.200 g, 0.346 mmol), Pd2(dba)3 (0.158 g, 0.173 mmol), CPME (13.83 ml) and cesium carbonate (3.15 g, 9.68 mmol). A reflux condenser was attached and the flask was lowered into a 110° C. heating for 3 hours. The mixture was cooled to room temperature, diluted with EtOAc, and filtered through celite with the aid of EtOAc. The filtrate was concentrated. The oily residue was purified using Biotage and eluting with 0-50% EtOAc/Heptane to give N-(4-(benzylthio)-2-nitrophenyl)-4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-amine (2.56 g, 5.03 mmol, 72.7% yield) as a bright-yellow solid. m/z (ESI) 509.1 (M+H)+.

reactant | 4-(benzylthio)-2-nitroaniline | 6.91 mmol, 1.80 g | C(C1=CC=CC=C1)SC1=CC(=C(N)C=C1)[N+](=O)[O-] | C13H12N2O2S
reactant | 4′-chloro-2-fluoro-4-iodo-5-methoxy-3′-methyl-1,1′-biphenyl | 7.61 mmol, 2.86 g | ClC1=C(C=C(C=C1)C1=C(C=C(C(=C1)OC)I)F)C | C14H11ClFIO
reactant | CPME | 13.83 ml | COC1CCCC1 | C6H12O
reactant | cesium carbonate | 9.68 mmol, 3.15 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | Pd2(dba)3 | 0.173 mmol, 0.158 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | xantphos | 0.346 mmol, 0.200 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
product | N-(4-(benzylthio)-2-nitrophenyl)-4′-chloro-2-fluoro-5-methoxy-3′-methyl-[1,1′-biphenyl]-4-amine | 5.03 mmol, 2.56 g, 72.7% yield | C(C1=CC=CC=C1)SC1=CC(=C(C=C1)NC1=CC(=C(C=C1OC)C1=CC(=C(C=C1)Cl)C)F)[N+](=O)[O-] | C27H22ClFN2O3S
